US05395962
5 ml of methanol and. 50 ml of 0.1M hydrochloric acid were added under ice cooling to 2.55 g (4.58 mmol) of (R)-(+)-2,2'-dihydroxy-1,1'-binaphthyl-(1R,2R)-(-)1,2-cyclohexanediamine.benzene (1:1:2) complex obtained in the same manner as in Example 5, followed by stirring for 30 minutes. The precipitated white solid was washed with water, and then dried under reduced pressure to obtain 1.29 g (4.51 mmol) of (R)-(+)-2,2'-dihydroxy-1,1'-binaphthyl. Yield =98%, optical purity=81%, m.p.=202°-203° C., and [α]D24 =+29.7° (c 0.539, THF).

reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 0.1M, 50 ml | Cl | ClH
reactant | (R)-(+)-2,2'-dihydroxy-1,1'-binaphthyl (1R,2R)-(-)1,2-cyclohexanediamine | 4.58 mmol, 2.55 g | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O.[C@@H]1([C@@H](CCCC1)N)N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (R)-(+)-2,2'-dihydroxy-1,1'-binaphthyl | 4.51 mmol, 1.29 g | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
